US05518903
To a mixture of (±)-3-aminobutanoic acid 10.0 g (97.0 mmol), sodium hydroxide 4.5 g (107 mmol), dioxane 100 ml and water 200 ml, di-tert-butyldicarbonate 24.2 g (111 mmol) was added dropwise on ice cooling. The mixture was stirred for 19.5 hours at room temperature. After the organic layer was concentrated, potassium hydrogen sulfate 18.4 g (dissolved in water 90 ml) was added on ice cooling. The mixture was extracted with ethyl acetate, and the extract was washed with a saturated solution of sodium chloride. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated to obtain crude 3-tert-butoxycarbonylaminobutanoic acid 17.0 g. The crude product 14.3 g (70.6 mmol) was dissolved in dimethylformamide 150 ml. After adding potassium hydrogen carbonate 14.9 g (149mmol) and butyl iodide 30.3 g (165 mmol), the mixture was stirred for 26 hours at room temperature. The reaction mixture was added to ice water, and the mixture was extracted with ethyl acetate. The extract was washed with water and a saturated solution of sodium chloride, successively. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated to obtain crude butyl 3-tert-butoxycarbonylaminobutanoate 18.5 g. The product was purified by silica gel column chromatography (heptane:ethyl acetate=10:1) to obtain (±)-butyl 3-tert-butoxycarbonylaminobutanoate 15.0 g (57.8 mmol). Yield 71%.

reactant | (±)-3-aminobutanoic acid | 97.0 mmol, 10.0 g | NC(CC(=O)O)C | C4H9NO2
reactant | sodium hydroxide | 107 mmol, 4.5 g | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 111 mmol, 24.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium hydrogen carbonate | 149mmol, 14.9 g | C(O)([O-])=O.[K+]
reactant | butyl iodide | 165 mmol, 30.3 g | C(CCC)I | C4H9I
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | (±)-butyl 3-tert-butoxycarbonylaminobutanoate | 57.8 mmol, 15.0 g, Yield 71% | C(C)(C)(C)OC(=O)NC(CC(=O)OCCCC)C | C13H25NO4
